US09447035B2
To a mixture of methyl (S)-3-[4-nitrophenyl]-2-tert-butoxycarbonylamino-propionic acid methyl ester (72 g, 222 mmol), zinc dust (˜325 mesh, 145.2 g, 2.2 mole, 10 equiv.) and ammonium chloride (178.1 g, 3.3 mole, 15 equiv.) was added methanol (1 L) and water (500 mL) at room temperature. After addition of water, an exothermic reaction ensued and the internal temperature rose to 45 to 50° C. The suspension was stirred for 30 min to 1 h at room temperature, at which time TLC analysis of the mixture indicated the absence of starting material, and the reaction mixture was filtered through a pad of celite and the filtered cake was washed with methanol (1 L) and water (500 mL). Concentration to remove most of the methanol and some water afforded white solids which were collected by filtration and washed with water. After air drying, 65.5 g (100% yield) of (S)-3-[4-aminophenyl]-2-tert-butoxycarbonylamino-propionic acid methyl ester was isolated as a white solid (mp 86-89° C.). ES(+)-HRMS m/e calcd. for C15H22N2O4 (M+H)+ 294.1621, obsd. 294.1614.

reactant | methyl (S)-3-[4-nitrophenyl]-2-tert-butoxycarbonylamino-propionic acid methyl ester | 222 mmol, 72 g | COC([C@](CC1=CC=C(C=C1)[N+](=O)[O-])(NC(=O)OC(C)(C)C)C)=O | C16H22N2O6
reactant | ammonium chloride | 3.3 mole, 178.1 g, 15 equiv. | [Cl-].[NH4+]
reactant | methanol | 1 L | CO | CH4O
catalyst | zinc | 2.2 mole, 145.2 g, 10 equiv. | [Zn] | Zn
solvent | water | O | H2O
solvent | water | 500 mL | O | H2O
product | (S)-3-[4-aminophenyl]-2-tert-butoxycarbonylamino-propionic acid methyl ester | 65.5 g, 100% yield | COC([C@H](CC1=CC=C(C=C1)N)NC(=O)OC(C)(C)C)=O | C15H22N2O4
